US04678826
1,6-Di{3-[(N,N-dibenzylamino)oxy)-2,5-dioxopyrrolidin-1-yl}hexane
The procedure of Example 1 is repeated using 3.08 g (14.5 mmole) of N,N-dibenzylhydroxylamine and 2.0 g (7.2 mmole) of 1,6-hexanediyl bis(maleimide).

reactant | N,N-dibenzylhydroxylamine | 14.5 mmole, 3.08 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | 1,6-hexanediyl bis(maleimide) | 7.2 mmole, 2.0 g | C(CCCCCC=1C(=O)NC(C1)=O)C=1C(=O)NC(C1)=O | C14H16N2O4
product | 1,6-Di{3-[(N,N-dibenzylamino)oxy)-2,5-dioxopyrrolidin-1-yl}hexane | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)OC1C(N(C(C1)=O)CCCCCCN1C(C(CC1=O)ON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C42H46N4O6
